US07820658B2
2-Amino-4-(2,4-dimethyl-phenyl)-6-mercapto-pyrimidine-5-carbaldehyde
2-Amino-4-chloro-6-(2,4-dimethylphenyl)-pyrimidine-5-carbaldehyde was added to a suspension of sodium sulphide (5 eq.) in DMF and the mixture stirred for ˜60 mins, to give a yellow suspension. The suspension was poured into water, and the solution filtered. The filtrate was acidified with acetic acid, to give a yellow precipitate. The solids were removed by filtration and washed with water and hexane, dried in vacuo, to give a yellow powder.

reactant | 2-Amino-4-chloro-6-(2,4-dimethylphenyl)-pyrimidine-5-carbaldehyde | NC1=NC(=C(C(=N1)Cl)C=O)C1=C(C=C(C=C1)C)C | C13H12ClN3O
reactant | sodium sulphide | 5 eq. | [S-2].[Na+].[Na+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-4-(2,4-dimethyl-phenyl)-6-mercapto-pyrimidine-5-carbaldehyde | NC1=NC(=C(C(=N1)C1=C(C=C(C=C1)C)C)C=O)S | C13H13N3OS
